US06600038B1
To 104.4 g of ethyl 1-ethoxycarbonyl-1,2,3,6-tetrahydropyridine-4-carboxylate, 1500 g of 47% hydrobromic acid was added, and the mixture was heated under reflux for 100 hours. The reaction mixture was concentrated under reduced pressure to yield crude 1,2,3,6-tetrahydropyridine-4-carboxylic acid hydrobromide. The obtained crude 1,2,3,6-tetrahydropyridine-4-carboxylic acid hydrobromide was dissolved in a mixed solution of 0.48 l of dioxane and 0.48 l of a 2M aqueous solution of sodium hydroxide, and 105.2 g of tert-butyl bicarbonate were added thereto. The reaction mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and 1.4 l of a 1M aqueous solution of potassium hydrogensulfate was poured thereinto. The precipitated crystals of 1-tert-butoxycarbonyl-1,2,3,6-tetrahydropyridine-4-carboxylic acid was obtained in an amount of 100.5 g by filtration.

reactant | ethyl 1-ethoxycarbonyl-1,2,3,6-tetrahydropyridine-4-carboxylate | 104.4 g | C(C)OC(=O)N1CCC(=CC1)C(=O)OCC | C11H17NO4
reactant | hydrobromic acid | 1500 g | Br | BrH
product | 1,2,3,6-tetrahydropyridine-4-carboxylic acid hydrobromide | Br.N1CCC(=CC1)C(=O)O | InChI=1S/C6H9NO2.BrH/c8-6(9)5-1-3-7-4-2-5;/h1,7H,2-4H2,(H,8,9);1H
